US05360881
100 g of diethyl oxide then a solution of 17.6 g (0.14 mole) of oxalic acid crystallised with two molecules of water in 62 g of water are introduced at ambient temperature and under agitation into an aqueous solution containing 29.1 g (0.15hole) of sodium diallyloxyacetate in 71 g of water. The biphasic medium obtained is agitated vigorously for 10 minutes then it is decanted. The ethereal phase is then dried over anhydrous sodium sulphate, filtered and finally concentrated to dryness under vacuum. In this way 24 g (0.14 mole) of pure diallyloxyacetic acid is obtained. This acid is in the form of an oil, it has a pka of 2.9 and it is soluble in water and in standard organic solvents such as diethyl oxide, dichloromethane; however, in aqueous solution, it hydrolyses.

reactant | diethyl oxide | 100 g | C(C)OCC | C4H10O
reactant | oxalic acid | 0.14 mole, 17.6 g | C(C(=O)O)(=O)O | C2H2O4
reactant | sodium diallyloxyacetate | 29.1 g | C(C=C)OC(C(=O)[O-])OCC=C.[Na+]
solvent | water | 62 g | O | H2O
solvent | water | 71 g | O | H2O
product | diallyloxyacetic acid | 0.14 mole, 24 g | C(C=C)OC(C(=O)O)OCC=C | C8H12O4
